US05854262
2-Methoxy-5-(1,2,3-thiadiazol-4-yl)benzaldehyde
A mixture of 0.99 grams (5.15 mmol) of 4-(4-methoxyphenyl)-1,2,3-thiadiazole (Maybridge Chemical Co.) in 23 mL of anhydrous methylene chloride (CH2Cl2) cooled to 0° C., was treated with 2.3 mL (21.9 mmol) of titanium tetrachloride and stirred for 30 min. The red solution was treated with 0.97 mL (10.7 mmol) of α,α-dichloromethyl methyl ether and allowed to warm to room temperature overnight. The reaction mixture was then poured over 100 mL of saturated aqueous sodium bicarbonate (NaHCO3), the pH was adjusted to 7-8 with solid NaHCO3 and the solution was then extracted with CH2Cl2. The organic layer was dried with magnesium sulfate (MgSO4) and concentrated to a yellow solid. Chromatography on silica gel (20% EtOAc: 80% Hexane) gave the pure title compound as a light yellow solid, 0.35 g (31%).

reactant | 4-(4-methoxyphenyl)-1,2,3-thiadiazole | 5.15 mmol, 0.99 grams | COC1=CC=C(C=C1)C=1N=NSC1 | C9H8N2OS
reactant | α,α-dichloromethyl methyl ether | 10.7 mmol, 0.97 mL | COC(Cl)Cl | C2H4Cl2O
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 23 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 21.9 mmol, 2.3 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 2-Methoxy-5-(1,2,3-thiadiazol-4-yl)benzaldehyde | COC1=C(C=O)C=C(C=C1)C=1N=NSC1 | C10H8N2O2S
